US04211702
4.8 gm (10 mmol) of cephalosporin C, sodium salt, dihydrate was suspended in 80 ml of methylene chloride (cyclohexane stabilized, dried over 4A molecular sieves). Diethyl aniline (dried over KOH), 7.4 gm (8 ml, 50 mmol), and acetyl chloride, 4.7 gm (4.3 ml, 60 mmol), were added. The mixture was stirred in an ice bath at 30° to 40° C. for 1 hour and then at room temperature for 2 hours. Filtration removed 1.65 gm of undissolved material. The reaction solution was cooled in an ice-alcohol bath before addition to a solution of the triphenyl phosphite-chlorine kinetic compound prepared as follows: triphenyl phosphite, 6.8 gm (5.8 ml, 22 mmol), was added to 100 ml of dry methylene chloride and cooled to ice-alcohol temperature before the addition of chlorine gas until a yellow coloration persisted. The addition of a few drops of triphenyl phosphite gave a colorless solution. After mixing the two above described solutions at ice alcohol temperature, diethyl aniline, 3.3 gm (3.5 ml, 22 mmol), in 20 ml of dry methylene chloride was added dropwise over a period of 10 minutes. The reaction mixture was stirred in the cold for 2 hours, then cooled further to about -35° C. and treated with isobutanol (dried over 3A molecular sieves), 6.0 gm (7.4 ml, 80 mmol). A stream and dry hydrogen chloride was then passed through the reaction mixture for about 30 seconds. The reaction mixture was refrigerated overnight. Twenty ml of water was then added to the methylene chloride solution. The resulting 2-phase mixture was stirred vigorously for 5 minutes. The methylene chloride layer was separated and washed with 20 ml of water. The aqueous layer and the aqueous wash were combined, washed with ethyl acetate and then adjusted to pH 3.8 with saturated ammonium bicarbonate solution. After 30 minutes at ice bath temperature the aqueous slurry was filtered to provide 1.5 gm (vacuum dried, 83%) of 7-ACA.

reactant | cephalosporin C | 10 mmol, 4.8 gm | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCC[C@H](C(=O)O)N)SC1)C(=O)O | C16H21N3O8S
reactant | sodium | [Na] | Na
reactant | Diethyl aniline | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | chlorine | ClCl | Cl2
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | triphenyl phosphite | a few drops | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | Twenty ml | O | H2O
solvent | isobutanol | C(C(C)C)O | C4H10O
product | 7-Amino-3-acetoxymethyl-3-cephem-4-carboxylic acid | 1.5 gm, 83% | NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O | C10H12N2O5S
